US09403804B2
f) 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[1-(4-ethyl-piperazin-1-yl)-cyclopentyl]-phenyl}-amide
The title compound is prepared from 4-cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(1-hydroxy-cyclopentyl)-pyridin-3-yl]-amide (as prepared in the previous step), N-ethylpiperazine, and thionyl chloride in DCM solvent according to the procedure in Example 43.

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(1-hydroxy-cyclopentyl)-pyridin-3-yl]-amide | CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1NC=C(N1)C#N)C1(CCCC1)O)C | C23H27N5O2
reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | DCM | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1H-imidazole-2-carboxylic acid {2-(4,4-dimethyl-cyclohex-1-enyl)-4-[1-(4-ethyl-piperazin-1-yl)-cyclopentyl]-phenyl}-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CCCC1)N1CCN(CC1)CC)NC(=O)C=1NC=C(N1)C#N)C | C30H40N6O
